US08633189B2
To the suspension of ethyl 7-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate (8.5 g, 38.5 mmol) in water (60 mL) was added NaOH (3.8 g, 96.1 mmol). The suspension was stirred at 100° C. for 30 min under N2 atmosphere. The reaction was cooled to room temperature and acidified to pH 2 with conc. HCl. The resulting precipitate was filtered, washed with water and dried to obtain 7-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylic acid (5.1 g, 68.7%). 1H NMR (400 MHz, DMSO-d6) δ 6.51 (s, 1H), 6.46-6.41 (m, 2H), 5.60 (br s, 1H), 4.73 (t, J=3.6 Hz, 1H), 3.33-3.31 (m, 2H), 2.10 (s, 3H).

reactant | ethyl 7-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylate | 38.5 mmol, 8.5 g | CC=1C=CC2=C(OC(CN2)C(=O)OCC)C1 | C12H15NO3
reactant | NaOH | 96.1 mmol, 3.8 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 60 mL | O | H2O
product | 7-methyl-3,4-dihydro-2H-benzo[b][1,4]oxazine-2-carboxylic acid | 5.1 g, 68.7% | CC=1C=CC2=C(OC(CN2)C(=O)O)C1 | C10H11NO3
